US06696469B2
Step 1: 4-Anilino-3-ethoxy-3-cyclobutene-1,2-dione
0.01 mol of aniline is added to a solution of 0.01 mol of 3,4-diethoxy-3-cyclobutene-1,2-dione in 30 ml of anhydrous ethanol. The mixture is refluxed for 12 hours and the precipitate that forms is filtered off while hot. The resulting residue is solidified in the presence of ether enabling the expected product to be isolated.

reactant | aniline | 0.01 mol | NC1=CC=CC=C1 | C6H7N
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 0.01 mol | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-Anilino-3-ethoxy-3-cyclobutene-1,2-dione | N(C1=CC=CC=C1)C1=C(C(C1=O)=O)OCC | C12H11NO3
